US08980888B2
<Step 1> Synthesis of 2-(pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-amine hydrochloride
The tert-butyl (2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-yl)carbamate (75 mg) obtained in (Example 3.15) <Step 4> and pyrrolidine (1 ml) were stirred under microwave heating at 150° C. for 1 hour. Thereafter, ethyl acetate (10 ml) and water (3 ml) were added to the reaction solution. An organic layer was separated, and was then dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure. Thereafter, potassium hydroxide (134 mg) was added to an ethanol (2 ml) solution of the obtained residue, and the obtained mixture was then heated to reflux for 16 hours. Thereafter, the solvent was distilled away under reduced pressure, and potassium hydroxide (134 mg) was added to an ethylene glycol (2 ml) solution of the obtained residue, followed by heating the obtained mixture at 155° C. for 2 hours. The solvent was distilled away under reduced pressure, and ethyl acetate (10 ml) and water (3 ml) were then added to the obtained residue. An organic layer was separated, and was then dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure, and the obtained residue was then purified by silica gel column chromatography (silica gel:eluent; heptane:ethyl acetate=50:50-0:100) to obtain a crude product. The obtained crude product was dissolved in 4 N hydrochloric acid-ethyl acetate (1 ml), and the precipitated solid was then collected by filtration, so as to obtain the title compound (16 mg) in the form of a yellow solid.

reactant | tert-butyl (2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-yl)carbamate | 75 mg | BrC1=NN2C(C=C(C=C2)NC(OC(C)(C)C)=O)=N1 | C11H13BrN4O2
reactant | pyrrolidine | 1 ml | N1CCCC1 | C4H9N
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 3 ml | O | H2O
reactant | hydrochloric acid ethyl acetate | 4 N, 1 ml | Cl.C(C)(=O)OCC
product | 2-(pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-amine hydrochloride | 16 mg | Cl.N1(CCCC1)C1=NN2C(C=C(C=C2)N)=N1 | InChI=1S/C10H13N5.ClH/c11-8-3-6-15-9(7-8)12-10(13-15)14-4-1-2-5-14;/h3,6-7H,1-2,4-5,11H2;1H
